Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfonamides / Penicillins / Decongestant Sinus / Potassium 
Sorbate
 
Attending: ___
 
Chief Complaint:
shortness of breath, fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o F w/ h/o malignant thymoma, c/b recurrent malignant 
effusions requiring pleurodesis, s/p surgical excision of 
thymoma, xrt, and 1 cycle of chemotherapy (w/ etoposide), who 
presents with 3 days of viral URI symptoms, fever. She underwent 
pleurodesis one month ago for recurrent pleural effusions. She 
reports that initially she felt improved breathing, however 
starting 2 weeks ago, she began to have sharp pain on the right 
side "like her lung was leaking again". Associated with dyspnea 
with exertion, like walking around the house. No associated 
fevers until 3 days ago, when she noticed onset of fevers, 
chills, sore throat and cough productive of white sputum. 
Therefore presented today for further evaluation. 

In ER, WBC 2.7 (N 33%, Bandemia 18%), lactate 2.3. Chest CT with 
decreased size of effusions, but ?loculated collections on right 
lower angle above liver dome. given cefepime x 1. 

Admit to medicine

ROS: as per HPI. otherwise negative
 
Past Medical History:
- Thymic carcinoma: s/p excision and s/p recent vocal cord 
medialization, s/p XRT over the ___, now on chemotherapy with 
etoposide
- Asthma diagnosed at age ___, treated at ___, previously 
hospitalized, never intubated.
- GERD
- Post nasal drip
- Diabetes: treated a year ago with metformin, but pt 
experienced nausea and stopped use.
- Hypertension
- Recurrent malignant pleural effusion s/p pleurodesis ___ by 
Decamp 
 
Social History:
___
Family History:
No known family history of cancer. Family history of asthma - 
one daughter and ___ grandchildren affected. No FH of CAD or DM.
 
Physical Exam:
Vitals- 98.1, BP 125/74, HR 101, RR 24, 95% RA->98% 2L NC 
General: ___ female, fatigued, no acute distress
HEENT: EOMI. OP clear. + periorbital edema
Neck: supple, jvp 9cm, no masses 
Cardiac: RRR, normal S1,S2, no m/r/g
Resp: good air movmement with occ wheeze, with coarse BS RLL, 
otherwise clear; no labored breaths 
GI: soft, non-distended, + RUQ ttp without inspiratory arrest, 
rebound or guarding. 
Extr: warm, no edema
Neuro: alert and oriented x 3. motor fn full 
affect: normal 
 
Pertinent Results:
Admission Labs: 
------------
___ 11:00AM   WBC-2.7*# RBC-3.89* HGB-9.8* HCT-30.4* 
MCV-78* MCH-25.2* MCHC-32.2 RDW-15.8*
___ 11:00AM   NEUTS-33* BANDS-18* ___ MONOS-20* EOS-0 
BASOS-0 ATYPS-4* METAS-1* MYELOS-1* OTHER-5*
___ 11:00AM   PLT COUNT-320
___ 11:00AM   ___ PTT-23.6 ___
___ 11:00AM   ALT(SGPT)-27 AST(SGOT)-26 ALK PHOS-155* TOT 
BILI-0.4
___ 11:00AM   GLUCOSE-139* UREA N-14 CREAT-0.9 SODIUM-134 
POTASSIUM-4.2 CHLORIDE-94* TOTAL CO2-26 ANION GAP-18
___ 11:04AM   LACTATE-2.3*
___:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG

# CT ___- CT OF THE ABDOMEN WITH IV CONTRAST:  There has 
been interval decrease in size of the previously seen right 
pleural effusion.  Persistent smaller right pleural effusion is 
seen with likely pleurodesis material within the pleural space. 
Additionally, more focal rounded collections are seen just 
superior to 
the liver dome, likely loculated effusions. The left lung 
appears relatively 
clear. 
  
The liver, gallbladder, spleen, splenules, adrenal glands appear 
unremarkable. The pancreas is largely fatty replaced.  Tiny 
calcification is seen in the region of the body of pancreas 
appears unchanged compared to ___.  Kidneys enhance 
symmetrically and excrete contrast bilaterally.  Tiny, rounded 
low- 
attenuation lesion is seen in the left kidney, too small to 
characterize by CT. 
  
Visualized portions of bowel appear unremarkable.  There is no 
evidence of free air or free fluid within the abdomen. 
  
CT OF THE PELVIS WITH IV CONTRAST:  The rectum appears 
unremarkable.  Sigmoid diverticula are seen, without evidence of 
acute diverticulitis.  No free fluid is seen within the pelvis.  
The bladder appears unremarkable.  The uterus is absent. 
  
BONE WINDOWS:  No suspicious lytic or blastic lesions are 
identified. 
  
IMPRESSION: Interval decrease in size of right pleural effusion 
compared to prior study. Persistent small right pleural 
effusion, with loculated components seen just superior to the 
liver dome.  The extent of pleural effusions is not completely 
assessed on this study. 

CXR ___
FINDINGS: PA and lateral views of the chest are obtained. 
Midline sternotomy wires are again noted along with mediastinal 
clips. A focus of pleural nodularity is again noted along the 
lateral aspect of the right mid-lung, measuring approximately 
1.8 cm. Right-sided pleural-based opacity is similar to that 
seen previously and may represent pleural thickening and pleural 
effusion. Radiation-related changes noted along the medial 
aspect of the right lung are stable. The left lung remains 
clear. Heart size is within normal limits. No evidence of 
pneumonia or CHF. Visualized osseous structures are stable.

IMPRESSION:

Pleural-based nodule in the right upper lung appears stable. 
Right lower lung pleural thickening and effusion is also stable. 
No evidence of pneumonia or CHF.

 
Brief Hospital Course:
Pt had fever and sob, was started on cefepime empirically with 
resolution of fever. By the next morning her sob had improved.  
Films reviewed by thoracic surgery and it was felt that 
effusions were improved.  Pts symptoms most compatible with URI. 
 As she became quickly afebrile, oncololgy team recommended no 
thoracentesis to eval for infection since possible URI as 
alternative cause.

Pt switched to oral cephalosporin for possible 
tracheobronchitis, though URI also considered.  She remained 
afebrile, was dc'd home but told to return with fever, as she 
may require thoracentesis to rule out infection of pleural 
effusion.

 
Medications on Admission:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Ventolin 2 PUFF IH Q6H 
3. Hydrocodone-Acetaminophen ___ TAB PO Q6H:PRN  
4. Aspirin 81 mg PO DAILY  
5. Ipratropium Q6H:PRN  
6. Lorazepam 1mg BID  
7. Docusate Sodium 100 mg PO BID:PRN  
8. Montelukast Sodium 10 mg PO DAILY  
9. Escitalopram Oxalate 10 mg PO DAILY  
10. Pantoprazole 40 mg PO Q24H  
11. Fexofenadine 60 mg PO BID  
12. Salmeterol Xinafoate Diskus (50 mcg) 1 INH IH Q12H  
13. Fluticasone Propionate NASAL 1 SPRY NU BID  
14. Fluticasone Propionate 110mcg 2 PUFF IH BID  
15. Valsartan 320 mg PO DAILY 
16. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN  
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
fever

 
Discharge Condition:
stable

 
Discharge Instructions:
Please call Dr. ___ with any fever over 100.4F, any shortness 
of breath, any other concerning symptoms.
 
Followup Instructions:
___